US04432896
7.69 g (0.02 M) of o-acetoxyhippuryl-L-phenylalanine ethyl ester was dissolved in 50 ml of methanol and to this solution was added 70 ml of a 0.1 N aqueous solution of NaOH, and then this solution was treated by repeating the same procedure as Procedure 1 supra to obtain o-hydroxyhippuryl-L-phenylalanine.

reactant | o-acetoxyhippuryl-L-phenylalanine ethyl ester | 0.02 M, 7.69 g | C(C)OC([C@@H](NC(CNC(=O)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)OC(C)=O)=O | C22H24N2O6
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | o-hydroxyhippuryl-L-phenylalanine | OC1=C(C[C@H](NC(CNC(=O)C2=CC=CC=C2)=O)C(=O)O)C=CC=C1 | C18H18N2O5
